US07223766B2
4-Chloro-6-(2-fluoro-phenyl)-1,3-dimethyl-1H-pyrazolo[3,4-d]pyrimidine
6-(2-Fluoro-phenyl)-1,3-dimethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one (2.0 g, 7.74 mmole) was treated with 40 ml phosphorous oxychloride and heated to reflux overnight. Removed excess phosphorous oxychloride under vacuum and added ice water to the residue. Extracted product with ethyl acetate, washed with 10% sodium carbonate, water, dried over sodium sulfate (anh) and removed solvent to give crude product. Crude product was chromatographed on silica gel column eluting with chloroform to give 1.10 g pure product (yield: 51%).

reactant | 6-(2-Fluoro-phenyl)-1,3-dimethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 7.74 mmole, 2.0 g | FC1=C(C=CC=C1)C=1NC(C2=C(N1)N(N=C2C)C)=O | C13H11FN4O
reactant | phosphorous oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(2-fluoro-phenyl)-1,3-dimethyl-1H-pyrazolo[3,4-d]pyrimidine | 1.10 g, yield: 51% | ClC1=C2C(=NC(=N1)C1=C(C=CC=C1)F)N(N=C2C)C | C13H10ClFN4
